US08563569B2
To a vial with 5-(2-chloro-5-methylpyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one (27.7 mg, 0.5 mmol) and 6-(4-methylpiperazin-1-yl)pyridin-3-amine (38.4 mg, 1.0 mmol), i-PrOH (2 mL) was added, followed by TFA (10 μL, 0.13 mmol). The vial was tightly closed, and the reaction mixture was stirred at 85° C. for 2 days. The solvents were removed in vacuo, and the crude product was purified by RP-HPLC. Purified compound (as a trifluoroacetate salt) was dissolved in MeOH—H2O (1:4, 2 mL) and was passed through a PL-HCO3-MP-SPE column, washing with same solvents (1 mL). The filtrate was collected and the solvent was removed by lyophilization. N4-(benzoxazolin-2-on-5-yl)-N2-[2-(4-methylpiperazin-1-yl)pyridin-5-yl]-5-methylpyrimidine-2,4-diamine was obtained as a purple solid, 23.1 mg (53% yield); 1H NMR (300 MHz, DMSO) δ 11.57 (s, 1H), 8.73 (s, 1H), 8.30-8.28 (m, 2H), 7.87-7.84 (m, 2H), 7.46-7.28 (m, 2H), 7.22 (d, J=8.5, 1H), 6.71 (d, J=9.1, 1H), 3.40-3.37 (m, 4H, overlapped with H2O), 2.44-2.41 (m, 4H), 2.25 (s, 3H), 2.11 (s, 3H); LCMS (M+) m/z 433.52.

reactant | 5-(2-chloro-5-methylpyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one | 0.5 mmol, 27.7 mg | ClC1=NC=C(C(=N1)NC=1C=CC2=C(NC(O2)=O)C1)C | C12H9ClN4O2
reactant | 6-(4-methylpiperazin-1-yl)pyridin-3-amine | 1.0 mmol, 38.4 mg | CN1CCN(CC1)C1=CC=C(C=N1)N | C10H16N4
reactant | TFA | 0.13 mmol, 10 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | N4-(benzoxazolin-2-on-5-yl)-N2-[2-(4-methylpiperazin-1-yl)pyridin-5-yl]-5-methylpyrimidine-2,4-diamine | 53% yield | O1C(NC2=C1C=CC(=C2)NC2=NC(=NC=C2C)NC=2C=CC(=NC2)N2CCN(CC2)C)=O | C22H24N8O2
